US04175053
Preparation of 2-propyl-2-hydroxymethyl-1,3-propanediol
To a heated (ca. 60° C.), rapidly stirred mixture of 9.9 grams (0.33 mole) of para-formaldehyde, 4.8 grams (0.12 mole) of finely pulverized, anhydrous sodium hydroxide, and 100 mls. of acetonitrile, was added, drop-wise, 8.4 grams of valeraldehyde. After drop-wise addition of the valeraldehyde had been completed, the reaction mixture was maintained at 80° C. for a period of 1/2 hour. At this time, 8.4 grams of insoluble solid (sodium formate and excess para-formaldehyde) was removed by filtration and discarded. Removal of the actonitrile solvent left 13.3 grams (88%) of a viscous oil which was identified as the title compound, B.P. ca. 140° C.-155° C./0.4 mm Hg.; recrystallized from a chloroform-acetonitrile mixed solvent, m.p. 100°-101° C.

reactant | para-formaldehyde | 0.33 mole, 9.9 grams | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | valeraldehyde | 8.4 grams | C(CCCC)=O | C5H10O
reactant | acetonitrile | C(C)#N | C2H3N
product | 2-propyl-2-hydroxymethyl-1,3-propanediol | C(CC)C(CO)(CO)CO | C7H16O3
